US07897792B2
3-(3-Amino-2-fluorobenzyl)-7-(pyrimidin-2-yloxy)-benzo[e][1,3]oxazine-2,4-dione
Triethylamine (0.180 mL, 1.29 mmol) was added to a mixture of 2-hydroxy-4-(pyrimidin-2-yloxy)benzoic acid (100 mg, 0.431 mmol) and chloroform (5.0 mL) at room temperature. The dark brown solution was cooled to 4° C., and methyl chloroformate (0.073 mL, 0.945 mmol) was then added thereto. The resulting light purple solution was stirred at room temperature for 2.5 hours and concentrated under reduced pressure. It was then redissolved in chloroform (5.0 mL), and a solution of triethylamine (0.120 mL, 0.861 mmol) and 3-aminoethyl-2-fluoro-phenylamine (60.0 mg, 0.428 mmol) in chloroform (1.0 mL) was added thereto. The obtained mixture was stirred at room temperature for 64 hours. Water was then added to the reaction mixture, and extraction was performed with ethyl acetate. The organic extract was washed with saturated saline and dried over magnesium sulfate, and then again washed with saturated saline. After drying over magnesium sulfate, it was concentrated under reduced pressure to yield a crude product, which was then purified by column chromatography to yield the title compound (25.8 mg, 16%) as a white solid.

reactant | Triethylamine | 1.29 mmol, 0.180 mL | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxy-4-(pyrimidin-2-yloxy)benzoic acid | 0.431 mmol, 100 mg | OC1=C(C(=O)O)C=CC(=C1)OC1=NC=CC=N1 | C11H8N2O4
reactant | methyl chloroformate | 0.945 mmol, 0.073 mL | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | 0.861 mmol, 0.120 mL | C(C)N(CC)CC | C6H15N
reactant | 3-aminoethyl-2-fluoro-phenylamine | 0.428 mmol, 60.0 mg | NCCC=1C(=C(C=CC1)N)F | C8H11FN2
solvent | chloroform | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-(3-Amino-2-fluorobenzyl)-7-(pyrimidin-2-yloxy)-benzo[e][1,3]oxazine-2,4-dione | 25.8 mg, 16% | NC=1C(=C(CN2C(OC3=C(C2=O)C=CC(=C3)OC3=NC=CC=N3)=O)C=CC1)F | C19H13FN4O4
